US08168794B2
To a suspension of CuI (0.3 equiv.) in anhydrous THF (0.1M) was added methyl magnesium bromide (3M solution in Et2O, 10 equiv.) at −40° C. The reaction was stirred for 30 min, followed by addition of benzyl 7-(diethoxyphosphoryl)-3,7-diazabicyclo[4.1.0]heptane-3-carboxylate (1.0 equiv.) in THF (0.1M) at −40° C. Allowed the reaction to warm to 10° C. over 5 h, then quenched with water and extracted with ethyl acetate. The organic phase was concentrated under vacuo and purified via silica gel column chromatography eluting with ethyl acetate and hexanes (50% to 100% ethyl acetate) to yield benzyl 3-(diethoxyphosphorylamino)-4-methylpiperidine-1-carboxylate in 35% yield. LCMS (m/z): 385.0 (MH+), Rt=3.38 min.

reactant | methyl magnesium bromide | 3M, 10 equiv. | C[Mg]Br
reactant | benzyl 7-(diethoxyphosphoryl)-3,7-diazabicyclo[4.1.0]heptane-3-carboxylate | 1.0 equiv. | C(C)OP(=O)(OCC)N1C2CCN(CC12)C(=O)OCC1=CC=CC=C1 | C17H25N2O5P
solvent | THF | 0.1M | C1CCOC1 | C4H8O
solvent | THF | 0.1M | C1CCOC1 | C4H8O
catalyst | CuI | 0.3 equiv. | [Cu]I
product | benzyl 3-(diethoxyphosphorylamino)-4-methylpiperidine-1-carboxylate | 35% yield | C(C)OP(=O)(OCC)NC1CN(CCC1C)C(=O)OCC1=CC=CC=C1 | C18H29N2O5P
